US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-tetradecanamide
The title compound was prepared from 2-tridecanone (10.0 g, 0.050 mol), 2,6-diisopropylphenyl isocyanate (10.16 g, 0.050 mol) and lithium diisopropylamide (0.050 mol) using the procedure described in Example 1. Purification by flash chromatography (silica gel, 15% EtOAc/hexane) yielded 13.14 g (0.032 mol, 65%) of the desired product.

reactant | 2-tridecanone | 0.050 mol, 10.0 g | CC(CCCCCCCCCCC)=O | C13H26O
reactant | 2,6-diisopropylphenyl isocyanate | 0.050 mol, 10.16 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.050 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-tetradecanamide | 0.032 mol, 13.14 g, 65% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCCCCCCCC)=O)=O | C26H43NO2
